### ISSUE TITLE
show tactic fails to reorder goals

### ISSUE THREAD

**Issue by eric-wieser** [leanprover-community/mathlib4#3305]
This doesn't work
```lean
example (P Q : Prop) : P ∧ Q := by
  constructor
  show Q  -- fails
  sorry
  sorry
```
but did in Lean 3:
```lean
example (P Q : Prop) : P ∧ Q :=
begin
  constructor,
  show Q,  -- ok
  sorry,
  sorry,
end
```

**Comment by kmill** [comment]
Rather than `show t`, this might end up as `case : t` to reorder goals, with the better `case : t => tac` structured form. https://github.com/leanprover/std4/pull/160/files
